US04801584
Carbonyldiimidazole (32 mg) was added to a stirred solution of 6,7-difluoro-8-hydroxy-1-(methylamino)-4-oxo-1,4-dihydro -3-quinolinecarboxylic acid (50 mg) obtained in Reference example (i) in dry dimethylformamide (2 ml). Stirring was continued at room temperature for 2 hours and then at 80° C. for 5 hours. The solvent was removed under reduced pressure and the residue was suspended in water and the pH was adjusted to pH 5 with acetic acid. The precipitate which separated out was filtered and washed with methanol to give 35 mg of 6-fluoro-8-hydroxy-7-(1-imidazolyl)-1-(methylamino)-4-oxo -1,4-dihydro-3-quinolinecarboxylic acid as pale yellow powder, FAB-MS m/z 319 (MH+); 1H-NMR (d6 -DMSO) δ: 2.82 (3H,s), 7.10 (1H, d, J=10.7 Hz), 7.61 (1H, d). 7.75 (1H, d), 8.62 (1H,s), 8.92 (1H,s). 15.33 (1H, br.s).

reactant | Carbonyldiimidazole | 32 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6,7-difluoro-8-hydroxy-1-(methylamino)-4-oxo-1,4-dihydro -3-quinolinecarboxylic acid | 50 mg | FC=1C=C2C(C(=CN(C2=C(C1F)O)NC)C(=O)O)=O | C11H8F2N2O4
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-fluoro-8-hydroxy-7-(1-imidazolyl)-1-(methylamino)-4-oxo -1,4-dihydro-3-quinolinecarboxylic acid | 35 mg | FC=1C=C2C(C(=CN(C2=C(C1N1C=NC=C1)O)NC)C(=O)O)=O | C14H11FN4O4
